US07485644B2
To a stirred solution of 5-pyrimidin-2-yl-1-({4-[5-(2,2,2-trifluoroethoxy)pyrimidin-2-yl]piperazin-1-yl}sulfonyl)pentan-2-one (9.47 g, 19.4 mmol) in DCM/MeOH (100 mL/100 mL) was added NaBH4 (807 mg, 21.3 mmol) portionwise and the reaction stirred at room temperature. The reaction was then quenched by addition of a saturated solution of NH4Cl (250 mL) and the organics removed in vacuo. The aqueous residue was then extracted with EtOAc (2×250 mL), combined organics washed with brine (250 mL), dried (MgSO4), filtered and concentrated in vacuo to give 5-pyrimidin-2-yl-1-({4-[5-(2,2,2-trifluoroethoxy)pyrimidin-2-yl]piperazin-1-yl}sulfonyl)pentan-2-ol as a white solid (9.10 g, 18.6 mmol, 96%).

reactant | 5-pyrimidin-2-yl-1-({4-[5-(2,2,2-trifluoroethoxy)pyrimidin-2-yl]piperazin-1-yl}sulfonyl)pentan-2-one | 19.4 mmol, 9.47 g | N1=C(N=CC=C1)CCCC(CS(=O)(=O)N1CCN(CC1)C1=NC=C(C=N1)OCC(F)(F)F)=O | C19H23F3N6O4S
reactant | NaBH4 | 21.3 mmol, 807 mg | [BH4-].[Na+]
solvent | DCM MeOH | 100 mL | C(Cl)Cl.CO
product | 5-pyrimidin-2-yl-1-({4-[5-(2,2,2-trifluoroethoxy)pyrimidin-2-yl]piperazin-1-yl}sulfonyl)pentan-2-ol | 18.6 mmol, 9.10 g, 96% | N1=C(N=CC=C1)CCCC(CS(=O)(=O)N1CCN(CC1)C1=NC=C(C=N1)OCC(F)(F)F)O | C19H25F3N6O4S
